US09056849B2
Reaction of 4-(3-(3-aminopropyl)phenethyl)heptan-4-ol with tert-butyl (1H-pyrazol-1-yl)methylenedicarbamate following the method described in Example 168 gives tert-butyl (tert-butoxycarbonylamino)(3-(3-(3-hydroxy-3-propylhexyl)phenyl)propylamino)methylenecarbamate.

reactant | 4-(3-(3-aminopropyl)phenethyl)heptan-4-ol | NCCCC=1C=C(CCC(CCC)(CCC)O)C=CC1 | C18H31NO
reactant | tert-butyl (1H-pyrazol-1-yl)methylenedicarbamate | N1(N=CC=C1)C(NC([O-])=O)NC(OC(C)(C)C)=O
product | tert-butyl (tert-butoxycarbonylamino)(3-(3-(3-hydroxy-3-propylhexyl)phenyl)propylamino)methylenecarbamate | C(C)(C)(C)OC(=O)NC(NCCCC1=CC(=CC=C1)CCC(CCC)(CCC)O)=NC(OC(C)(C)C)=O | C29H49N3O5
